US05958910
4-(2-Benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide
A solution of 21.7 g of 2-bromo-1-(2-benzyloxy-phenyl)-ethanone in 150 ml of methanol was treated at room temperature with 7.6 g of thiourea and boiled for 1 hour. The reaction mixture was concentrated to a volume of 60 ml. 20.7 g of 4-(2-benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide separated as colorless crystals upon cooling to 0° C. and after the addition of 250 ml of diethyl ether.

reactant | 2-bromo-1-(2-benzyloxy-phenyl)-ethanone | 21.7 g | BrCC(=O)C1=C(C=CC=C1)OCC1=CC=CC=C1 | C15H13BrO2
reactant | thiourea | 7.6 g | NC(=S)N | CH4N2S
solvent | methanol | 150 ml | CO | CH4O
product | 4-(2-Benzyloxy-phenyl)-thiazol-2-ylamine hydrobromide | Br.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C=1N=C(SC1)N | InChI=1S/C16H14N2OS.BrH/c17-16-18-14(11-20-16)13-8-4-5-9-15(13)19-10-12-6-2-1-3-7-12;/h1-9,11H,10H2,(H2,17,18);1H
